US06426396B2
The catalyst F (71 mg, 0.1 mmol) previously synthesized was dissolved into 15 ml of toluene at room temperature under an argon atmosphere in a Schlenck tube, and then 1.8 ml of a toluene solution (aluminum: 10 atomic %) of methyl aluminoxane which is a co-catalyst was added thereto so as to adjust a catalyst solution. In the meantime, 1,3-cyclohexadiene (8 g, 0.1 mol) and propylene (12.6 g, 0.3 mol) as monomers were dissolved into 15 ml of toluene at room temperature under an argon atmosphere. While this solution was kept to room temperature and was stirred, the total amount thereof was added to the total amount of the above-mentioned catalyst solution. Polymerization advanced promptly and the reaction finished within 1 hour. A slurry containing the produced polymer was precipitated in a great deal of methanol acidified with hydrochloric acid to isolate the polymer. Methanol was then removed by filtration. The resultant was vacuum-dried at room temperature for 24 hours to obtain a cyclohexadiene-propylene copolymer. The yield of the polymer was 91%.

reactant | 1,3-cyclohexadiene | 0.1 mol, 8 g | C1=CC=CCC1 | C6H8
reactant | propylene | 0.3 mol, 12.6 g | C=CC | C3H6
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | cyclohexadiene propylene | C1=CC=CCC1.C=CC | InChI=1S/C6H8.C3H6/c1-2-4-6-5-3-1;1-3-2/h1-4H,5-6H2;3H,1H2,2H3
